US07534894B2
Step 6: ({4′-[({[1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl]carbonyl}amino)-methyl][1,1′-biphenyl]-4-yl}oxy)acetic acid.
A mixture of methyl({4′-[({[1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl]carbonyl}amino)methyl][1,1′-biphenyl]-4-yl}oxy)acetate (284 mg, 0.557 mmol), prepared in the previous step, and 1 N NaOH (668 μL, 0.668 mmol) in 20 mL of THF and 10 mL of water was stirred at room temperature for 20 h (overnight). The reaction was acidified by the addition of 668 μL of 1 N HCl and then concentrated under reduced pressure to remove the THF. The solid that formed was collected by filtration and dried under reduced pressure to give the title compound (249 mg, 89%) as a white solid, MS (APCI) m/z 496 [M+H]+. Elemental Analysis for C26H20F3N3O4+0.38 H2O. Calc'd: C, 62.17; H, 4.17; N, 8.37Found: C, 61.91; H, 4.08; N, 8.00

reactant | methyl({4′-[({[1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl]carbonyl}amino)methyl][1,1′-biphenyl]-4-yl}oxy)acetate | 0.557 mmol, 284 mg | COC(COC1=CC=C(C=C1)C1=CC=C(C=C1)CNC(=O)C=1C=NN(C1C(F)(F)F)C1=CC=CC=C1)=O | C27H22F3N3O4
reactant | NaOH | 0.668 mmol, 1 N, 668 μL | [OH-].[Na+]
reactant | HCl | 1 N, 668 μL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | ({4′-[({[1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl]carbonyl}amino)-methyl][1,1′-biphenyl]-4-yl}oxy)acetic acid | 249 mg, 89% | C1(=CC=CC=C1)N1N=CC(=C1C(F)(F)F)C(=O)NCC1=CC=C(C=C1)C1=CC=C(C=C1)OCC(=O)O | C26H20F3N3O4
